### PR TITLE
introduces completely iterative algebras (after Milius)

### PR DESCRIPTION
**Pull request by rmatthes**
the result is that the inverse of a final coalgebra is such an algebra

### CODE REVIEW

**Comment by benediktahrens** [comment]
@rmatthes : thanks for preparing this.

Could you commit CONTENTS.md?

**Comment by rmatthes** [comment]
I do not know how to do this. `make check-for-changes-to-CONTENTS.md` succeeds on my computer, and there is nothing to be committed.

**Comment by nmvdw** [comment]
Try `make` and afterwards, the file `CONTENTS.md` should be changed and you can commit it.

File: UniMath/CategoryTheory/CompletelyIterativeAlgebras.v [hunk 1]
```diff
@@ -0,0 +1,159 @@
...
+      - apply #F.
+        apply BinCoproductIn1.
+      - simple refine ((coalg_map _ X) · _).
+        apply #F.
+        apply BinCoproductIn2.
+    Defined.
+
+    Lemma ϕ_for_cia_has_equivalent_characteristic_formula
+      (x : C) (e : x --> CP (F x) (alg_carrier _ Xinv)) (h : C ⟦ x, alg_carrier F Xinv ⟧) :
+      primitive_corecursion_characteristic_formula CP (ϕ_for_cia x e) h <->
```
Comment (nmvdw) [inline UniMath/CategoryTheory/CompletelyIterativeAlgebras.v:77]: A weq might be nicer here (using `use weqimplimpl` in the proof).

**Review by nmvdw — APPROVED** [review]

File: UniMath/CategoryTheory/CompletelyIterativeAlgebras.v (hunk 1 above)
Comment (rmatthes) [reply UniMath/CategoryTheory/CompletelyIterativeAlgebras.v]: Good idea. Could I afterwards use a lemma that unique existence is inherited through weg?

**Comment by rmatthes** [comment]
> Try `make` and afterwards, the file `CONTENTS.md` should be changed and you can commit it.

`make UniMath/CONTENTS.md` tells me that it is up to date. And then `make` drops plenty of files that impede `dune` runs. I wonder what is the status of issue #1634. @m-lindgren ?

**Comment by m-lindgren** [comment]
> `make UniMath/CONTENTS.md` tells me that it is up to date. And then `make` drops plenty of files that impede `dune` runs. I wonder what is the status of issue #1634. @m-lindgren ?

I got it semi-functional if I remember correctly, but currently not on the top of my TODO list unfortunately.

For me `make UniMath/CONTENTS.md` updated the file correctly and I could `git add` and commit it. I made a PR against your branch with this change so that this PR hopefully can pass the sanity-checks.

**Comment by benediktahrens** [comment]
CI says
```
File "./UniMath/SubstitutionSystems/MultiSortedMonadConstruction_coind_actegorical.v", line 466, characters 4-75:
Error: The variable terminal_coalg_to_ghss was not found in the current
environment.
```

File: UniMath/CategoryTheory/CompletelyIterativeAlgebras.v [hunk 2]
```diff
@@ -0,0 +1,161 @@
+(** ****************************************************************
+
+Completely iterative algebras according to Stefan Milius (Information and Computation 2005)
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/CompletelyIterativeAlgebras.v:3]: Is this paper meant?
```suggestion
Completely iterative algebras according to Stefan Milius, Completely iterative algebras and completely iterative monads, https://doi.org/10.1016/j.ic.2004.05.003
```

**Review by benediktahrens — APPROVED** [review]
